US08871753B2
Step E: tert-Butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate
To a solution of tert-butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate (0.27 g, 0.63 mmol) and 2,4-dichloro-5-fluoropyrimidine (0.105 g, 0.63 mmol) in N,N-dimethylformamide (4 mL) was added potassium carbonate (0.446 g, 3.23 mmol). The resultant mixture was stirred overnight at rt. The reaction was quenched with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography to give the desired product (50 mg, 14%). LCMS for C27H33ClFN6O4 (M+H)+: m/z=559.2.

reactant | tert-butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.63 mmol, 0.27 g | NC=1C=CC(=C(C1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C23H32N4O4
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.63 mmol, 0.105 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | potassium carbonate | 3.23 mmol, 0.446 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2-chloro-5-fluoropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 50 mg, 14% | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1F)Cl)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C27H32ClFN6O4
